US04668680
A suspension of 1.0 g (3.35 mmole) of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.36 g (13.35 mmole) of triethylamine and 60 ml of acetonitrile is refluxed for eight hours and stirred at room temperature for 16 hours. The precipitate is removed by filteration, washed with acetonitrile, and dried in vacuo at 45° C. to give 5-amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid, mp 247°-248° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.35 mmole, 1.0 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | triethylamine | 13.35 mmole, 1.36 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5-amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CCN(CC1)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
